US05817671
5-(N-[3-furoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 1.0 gm (4.3 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.68 gm (5.2 mMol) 3-furoyl chloride, 0.85 gm (61%) of the title compound were prepared as an ivory crystalline solid essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 4.3 mMol, 1.0 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-furoyl chloride | 5.2 mMol, 0.68 gm | O1C=C(C=C1)C(=O)Cl | C5H3ClO2
product | 5-(N-[3-furoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.85 gm, 61% | O1C=C(C=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H20N4O2
